.options savecurrents
.options savevoltages
* PHILIPS BJT'S
.MODEL BC557A PNP(IS=2.059E-14 ISE=2.971f ISC=1.339E-14 XTI=3 BF=227.3 BR=7.69 IKF=0.08719 IKR=0.07646 XTB=1.5 VAF=37.2 VAR=11.42 VJE=0.5912 VJC=0.1 RE=0.688 RC=0.6437 RB=1 RBM=1 IRB=1E-06 CJE=1.4E-11 CJC=1.113E-11 XCJC=0.6288 FC=0.7947 NF=1.003 NR=1.007 NE=1.316 NC=1.15 MJE=0.3572 MJC=0.3414 TF=7.046E-10 TR=1m2 ITF=0.1947 VTF=5.367 XTF=4.217 EG=1.11)
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3 BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5 VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2 RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06 CJE=1.61E-11 CJC=4.388p XCJC=0.6193 FC=0.7762 NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793 TF=4.995E-10 TR=1m2 ITF=0.7021 VTF=3.523 XTF=139 EG=1.11)

Vcc vcc 0 12.0
Vin in 0 0 ac 1.0 sin(0 10m 1k)
Rin in in2 75

* input coupling capacitor
Ci in2 base1 3m

* bias circuit
R1 vcc base1 75k
R2 base1 0 15k

* gain stage
Q1 coll base2 emit BC547A
Rc vcc coll1 0.84k
Re emit 0 75

*fonte para medir IB1
Vimb1 base1 base2 0V

*fonte para medir coll1
Vimc1 coll coll1 0V

*fonte para medir IB2
Vimb2 coll1 coll2
 

* bypass capacitor
Cb emit 0 2m


* output stage
Q2 collgnd coll2 emit2 BC557A
Rout emit2 vcc 75

* output coupling capacitor
Co emit2 out 2m

*fonte para medir coll2
Vimc2 collgnd 0 0V

* load
RL out none 8
Vim none 0 0V

.control

op

set hcopypscolor=1
set color0=white
*set color1=black
*set color2=red
*set color3=blue
*set color4=violet
*set color5=rgb:3/8/0
*set color6=rgb:4/0/0

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo  "opsim_TAB"
print @Vimb1[i]
print @Vimc1[i]
print @Re[i]
print v(emit)
print vcc-v(coll1)
print v(coll)-v(emit)
print vcc-v(coll1)
print @Rout[i]
print i(Vimc2)
print vcc-v(emit2)
echo  "opsim_END"

echo "********************************************"
echo  "Transient analysis"
echo "********************************************"

tran 1e-5 1e-2
*plot v(coll)
*hardcopy vo1.ps v(coll)

echo "********************************************"
echo  "Frequency analysis"
echo "********************************************"

ac dec 10 10 100MEG

*clacular offset
meas ac peak MAX vdb(out) FROM=10 TO=1MEG
let cutoff = peak-3
meas ac f1 WHEN vdb(out)=cutoff RISE=1
meas ac f2 WHEN vdb(out)=cutoff FALL=1
let bandwidth = f2-f1
*print bandwidth

*calcualte merith
let Rcost=0.1+75+15+0.84+0.075+0.075+0.008
let Ccost=(3+2+2)*1000
let Tcost=2
let cost=Rcost+Ccost+Tcost

*print mer
let gainf= vdb(out)-vdb(in2)
*plot gainf
hardcopy totalgain.ps vdb(out)-vdb(in2)
echo totalgain_FIG


meas ac gain MAX gainf FROM=10 TO=1MEG

let zi=abs(v(in2)[40]/vin#branch[40]/(-1000))
*plot zi
*print v(in2)[40]/vin#branch[40]/(-1000)

let z0=abs(v(out)[40]/vim#branch[40]/(-1000))
*plot z0
*print v(out)[40]/vim#branch[40]/(-1000)

echo "acsim_TAB"
print gain
print zi
print z0
echo "acsim_END"

*need a different setup to measure output impedance


quit
.endc

.end
